US06455708B1
O-ethyl 2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran-4-carbothioate
An amount (58 mg) of 4-bromo-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran was dissolved in t-butyl methyl ether (2 ml); to the solution, 1.69 M n-butyllithium (0.108 ml) was added at −70° C. under a nitrogen atmosphere and the mixture was stirred for 15 minutes. Then, diethyl thiocarbonate (67 mg) was added dropwise to the reaction mixture, which was stirred for 30 minutes at −70° C. To the reaction mixture, a saturated aqueous solution of ammonium chloride was added, followed by extraction with hexane/ethyl acetate (3/1). The resulting organic layers were washed with a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluent; hexane/ethyl acetate=2/1) to give the titled compound (31 mg) as a colorless oil.

reactant | 4-bromo-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran | 58 mg | BrC1=CC(OC2=C1C=C(C=C2)C(F)(F)F)(CF)CF | C12H8BrF5O
reactant | n-butyllithium | 1.69 M, 0.108 ml | C(CCC)[Li]
reactant | diethyl thiocarbonate | 67 mg | C(OCC)(OCC)=S | C5H10O2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | t-butyl methyl ether | 2 ml | COC(C)(C)C | C5H12O
product | O-ethyl 2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran-4-carbothioate | 31 mg | FCC1(OC2=C(C(=C1)C(OCC)=S)C=C(C=C2)C(F)(F)F)CF | C15H13F5O2S
